US04415739
To a mixed solution of 5.6 g of 1,3-dimethyl-5-pyrazolone and 40 ml of dichloroethane was added 16 g of anhydrous aluminium chloride while cooling the solution by water, and 9.6 g of m-dichlorobenzene was dropwise added thereto at 30° C. Then a solution of 15.4 g of tetrachloromethane and 20 ml of dichloroethane was dropwise added to the mixed solution at 25° to 30° C. in one hour and a condensation reaction was performed at 40° C. for 90 minutes and at 50° C. for 30 minutes. The reaction mixture was allowed to cool and 100 ml of concentrated hydrochloric acid was gradually added to it and a reaction was performed at 60° to 70° C. for 4 hours. The dichloroethane solution was separated partially and refined in the same manner as in Example 1 to obtain 13.2 g of 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole.

reactant | 1,3-dimethyl-5-pyrazolone | 5.6 g | CN1NC(=CC1=O)C | C5H8N2O
reactant | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
reactant | aluminium chloride | 16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | m-dichlorobenzene | 9.6 g | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | water | O | H2O
solvent | tetrachloromethane | 15.4 g | ClC(Cl)(Cl)Cl | CCl4
product | 1,3-dimethyl-4-(2,4-dichlorobenzoyl)-5-hydroxypyrazole | 13.2 g | CN1N=C(C(=C1O)C(C1=C(C=C(C=C1)Cl)Cl)=O)C | C12H10Cl2N2O2
